US07429609B2
{6-Fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazol-5-yl}carbamic acid tert-butyl ester
To a suspension of 369 mg of 6-fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazole-5-carboxylic acid obtained by Production example 108 in 6 mL of toluene were added 69 mg of triethylamine, 0.15 mL of 2-methyl-2-propanol and 187 mg of diphenyl phosphoryl azide, and stirred at 80° C. for 7.5 hours. After adding 10 mL of ethyl acetate to the reaction solution, the organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product purified and separated by silica gel column chromatography (n-hexane:toluene=1:1), to afford 102 mg of the title compound as a white non-crystalline powder.

reactant | 6-fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazole-5-carboxylic acid | 369 mg | FC1=C(C=C2C(=NN(C2=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=CC(=CC=C1)F)C(=O)O | C35H24F2N2O2
reactant | triethylamine | 69 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-2-propanol | 0.15 mL | CC(C)(C)O | C4H10O
reactant | diphenyl phosphoryl azide | 187 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | {6-Fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazol-5-yl}carbamic acid tert-butyl ester | 102 mg | C(C)(C)(C)OC(NC=1C=C2C(=NN(C2=CC1F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=CC(=CC=C1)F)=O | C39H33F2N3O2
